Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Altace / 
fenofibrate / clindamycin
 
Attending: ___.
 
Chief Complaint:
Left Distal Femur Fracture
 
Major Surgical or Invasive Procedure:
Left leg casting (___)

 
History of Present Illness:
HPI: ___ who presented to an OSH after a fall from standing with 
head strike. She uses a walker at baseline and notes that she 
was going to the bathroom at approximately 2:30 pm when her 
knee-cap gave out causing her to fall. She notes that she has 
had problems with this knee intermittently. She is unsure if she 
lost consciousness but seems to remember the event. Currently 
she reports pain in the left hip/leg but states that she is not 
experiencing pain elsewhere. 

Review of Systems: 
(+) per HPI
(-) denies headache, numbness, tingling, fevers, chills, 
fatigue,
malaise, significant weight loss, weight gain, changes in 
hearing
or vision, chest pain, shortness of breath, DOE, hemoptysis,
cough, wheeze, palpitations, abdominal pain, nausea, vomiting,
diarrhea, constipation, denies dysuria, rash, pruritis, heat
intolerance, cold intolerance, easy bruising, bleeding, mood
changes

 
Past Medical History:
# Mod-Severe Aortic Stenosis  
# CAD s/p PCI OM1 3.0 x 13 mm Velocity stent and r-PL 3.0 x 13mm 
Velocity stent ___  
# AAA 3.1 cm  
# HTN - not currently on any medications for this  
# HLD - not currently on any medication  
# Paroxysmal Atrial Fibrillation   
# Rheumatic Fever and Scarlet Fever  
# Pulmonary HTN  
# Syncope ___ s/p four rib fractures  
# Cystic lesions in pancreatic tail most likely representing 
IPMNs  
# Recurrent UTIs (Klebsiella and E. Coli) c/b urosepsis ___  
# Overactive Bladder  
# Hx of C. Diff Colitis/sepsis ___ without any recurrence 
(three month hospitalization/prolonged ICU stay)  
# Macular Degeneration right eye  
# Left hip replacement ___  
# Left knee replacement x 2 and right knee replacement x 1  
# Osteopenia  
# GERD  
# ? Cholangitis  
# Cholecystectomy  
# ___ DVT ___ after delivering her daughter  
# Bilateral rotator cuff injury s/p fall in ___ ___  
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION EXAM:
===============
97.0 92 ___ 98% RA 
General: GCS 15, awake, alert
HEENT: NCAT, PERRLA, EOMI, anicteric
Heart: irregularly irregular, tachycardic
Lungs: CTAB, normal excursion, no respiratory distress
Back: no vertebral tenderness, no CVAT, no bruising
Abdomen: soft, NT, ND, no mass, no hernia
Neuro: strength intact/symmetric, sensation intact/symmetric
Extremities: faint distal DP signals bilaterally, left leg 
splinted, moving all four extremities

DISCHARGE EXAM:
===============
Vitals: Tm:98.0 BP:98/58 (98-115/56-67) P:80-108 R:16 O2:100 RA  

General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Lungs: Slight bibasilar crackles, no wheezes, rhonchi  
CV: Irregularly irregular, holosystolic II/VI at ___, III/VI at 
the apex radiating to the axillae, no rubs/gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Lt ___ in large cast and immobile.
Skin: no rashes or ecchymoses
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:22PM BLOOD WBC-12.4*# RBC-3.38* Hgb-9.6* Hct-32.6* 
MCV-96 MCH-28.4 MCHC-29.4* RDW-16.7* RDWSD-58.8* Plt ___
___ 10:22PM BLOOD Neuts-81.7* Lymphs-8.7* Monos-7.7 Eos-1.0 
Baso-0.2 Im ___ AbsNeut-10.11* AbsLymp-1.08* AbsMono-0.96* 
AbsEos-0.13 AbsBaso-0.03
___ 10:22PM BLOOD ___ PTT-26.8 ___
___ 10:22PM BLOOD Glucose-117* UreaN-26* Creat-0.9 Na-137 
K-6.1* Cl-101 HCO3-25 AnGap-17
___ 04:00AM BLOOD Calcium-8.6 Phos-4.1 Mg-1.9

DISCHARGE LABS:
===============
___ 06:50AM BLOOD WBC-5.7 RBC-2.54* Hgb-7.4* Hct-25.1* 
MCV-99* MCH-29.1 MCHC-29.5* RDW-17.0* RDWSD-60.9* Plt ___
___ 06:20AM BLOOD ___ PTT-28.0 ___
___ 06:50AM BLOOD Glucose-129* UreaN-21* Creat-0.8 Na-138 
K-4.2 Cl-104 HCO3-25 AnGap-13
___ 06:50AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.8

IMAGING:
========
CHEST (PORTABLE AP) Study Date of ___  
Hyperinflated lungs consistent with emphysema.  No evidence of 
focal 
consolidation or pneumothorax.  Small left pleural effusion 
versus pleural 
thickening. 

KNEE (2 VIEWS) LEFT Study Date of ___  
Left, distal perihardware femoral fracture is not significantly 
changed from ___.  Large layering knee effusion consistent 
with lipohemarthrosis. 

TTE ___
The left atrium is dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Left ventricular systolic function is hyperdynamic (EF = 
75%). The right ventricular free wall is hypertrophied. Right 
ventricular chamber size is normal with borderline normal free 
wall function. [Intrinsic right ventricular systolic function is 
likely more depressed given the severity of tricuspid 
regurgitation.] There are three aortic valve leaflets. The 
aortic valve leaflets are moderately thickened. There is 
moderate aortic valve stenosis (valve area 1.0-1.2cm2). Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
moderately thickened. There is severe mitral annular 
calcification. There is moderate thickening of the mitral valve 
chordae. There is mild functional mitral stenosis (mean gradient 
6 mmHg) due to mitral annular calcification. Severe (4+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. Moderate [2+] tricuspid regurgitation is seen. There 
is moderate pulmonary artery systolic hypertension. Significant 
pulmonic regurgitation is seen. The end-diastolic pulmonic 
regurgitation velocity is increased suggesting pulmonary artery 
diastolic hypertension. There is a small pericardial effusion. 
There are no echocardiographic signs of tamponade. 
Echocardiographic signs of tamponade may be absent in the 
presence of elevated right sided pressures. 
Compared with the prior study (images reviewed) of ___, 
aortic stenosis is worse (now moderate); multiple other major 
valvular lesions persist without major change.  

CT HEAD W/O CONTRAST Study Date of ___  
No significant change to small subdural hematoma layering along 
the anterior falx.  No new hemorrhage. 

 
Brief Hospital Course:
Ms. ___ is a ___ w/a Hx of severe pulmonary HTN, moderate 
to severe aortic stenosis, severe MR, dCHF, AAA (3cm), 
paroxysmal atrial fibrillation (on Aspirin), CAD (s/p stents x2, 
LCx and RCA ___, HTN, and HLD presenting after fall with 
headstrike, found to have impacted displaced periprosthetic left 
distal femur fracture and nonoperative 6mm IPH s/p mechanical 
fall. Seen by Neurosurgery, not found to have focal neuro 
deficits, held ASA for one week, repeat NCCTH was stable. Pt was 
cleared by home and ___ Cardiology for possible Ortho surgical 
repair of fracture, decided on casting and rehab. Afib w/RVR 
controlled w/IV Metop, transitioned to home dose Metoprolol and 
was stable.

# Left Femur Fracture: Pt suffered a left distal femur fracture 
after what was thought to be a mechanical fall at home, was 
initially admitted to the acute trauma surgical service, though 
later transferred to medicine due to her medical complexity. Pt 
was seen by Orthopedics, originally considered to be nonsurgical 
candidate, but after d/w ___ Cardiologist Dr. ___ 
inpatient ___, pt was cleared for surgery, though after much 
discussion, pt and husband decided on casting instead of surgery 
due to not dissimilar possible outcomes and surgical risk. Pt's 
left leg was casted by Ortho, was seen by ___ at ___, and will 
continue rehab at ___. Pain was controlled with Oxycodone and 
Tylenol.
 
# AFib: Pt w/hx of AFib, was not on anticoagulation, also pt 
w/severe MR and mild AS per TTE on ___ and known ___. She was 
found to be in RVR w/stable BPs in the ED. She was given IV 
Metoprolol which stabilized her Afib and transitioned to PO 
Metoprolol. Pt's home dose was unknown, though turned out to be 
Metoprolol Succinate 75mg qd, pt still suffered several bouts of 
RVR which resolved when pt placed on equivalent home dose of 
Metoprolol Tartrate 25mg q8h. Her home Lasix 20mg qd and home 
ASA 81mg qd were held.
 
# HTN: Pt was not currently on home BP meds on admission 
w/exception for Lasix 20mg qd. Has known AAA (3 cm). Pt's BPs 
were on the lower end for most of her admission and her home 
Lasix was held, pt was occasionally given IVF over her 
admission, had no signs of fluid overload and didn't develop 
SOB.

# ICH/Head Strike: Pt hit her head when she mechanically fell, 
was found to have a subdural hem, Neurosurgery was consulted, 
they found no focal Neurological deficits. Repeat NCCTH was 
stable, no interventions were recommended, although her home ASA 
was held for 1x week. Pt will f/u w/Neurosurg as outpatient.

# CAD: Pt is s/p stents x2, LCx and RCA ___, and has dCHF. Her 
home ASA was held ___ SDH, pt had no signs of dCHF over this 
admission.

***TRANSITIONAL ISSUES***
-Pt will return in 2 weeks for f/u w/Dr. ___ in 
Orthopedics
-___ will return in 4 weeks for f/u w/Dr. ___ day ___ 
for ___ 
-Pt's ASA was held for 1x week, to restart on ___
-Pt's Lasix was held ___ lower BPs over this admission and pt 
was w/o signs of dCHF over this admission, consider restarting 
based off of volume status
-Pt's Hb fluctuated over her admission, is below her baseline, 
though w/o clear etiology, has been stable at ~7.5-8.5, 7.4 on 
DC.

# CODE: Full (confirmed) 
# CONTACT:  Name of health care proxy: ___ 
Relationship: husband 
Phone number: ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ciprofloxacin HCl 250 mg PO 3X/WEEK (___) 
2. Ascorbic Acid ___ mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Metoprolol Succinate XL 75 mg PO DAILY 
6. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q8H:PRN pain 


 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Ciprofloxacin HCl 250 mg PO 3X/WEEK (___) 
3. Metoprolol Tartrate 25 mg PO Q8H 
4. Omeprazole 20 mg PO DAILY 
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6h prn Disp #*20 Tablet 
Refills:*0
6. Acetaminophen ___ mg PO Q6H 
7. Influenza Vaccine Quadrivalent 0.5 mL IM NOW ___. TraZODone 25 mg PO HS:PRN insomnia 
9. Heparin 5000 UNIT SC BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Left Femur Fracture
Subdural Hematoma
AFib with RVR

SECONDARY:
Hypertension
Coronary Artery Disease
Aortic Stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from an outside hospital after you 
fell in your house and hit your head and broke your left leg. 
You were found to have a small, stable bleed in your brain. Your 
atrial fibrillation was found to be out of control and your 
heart was beating very fast. You were seen by our Neurosurgeons 
and we stopped your aspirin for a week due to your bleed, our 
Orthopedic surgeons evaluated you and recommended a cast to help 
repair your left leg fracture, and your heart rate got under 
control with medication. After your leg was placed in a cast, 
you were discharged to rehab for physical therapy.

INSTRUCTIONS from ORTHOPAEDIC SURGERY:

- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- non weight bearing left lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take heparin as prescribed

WOUND CARE:
- Cast must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get cast wet

It was truly a pleasure taking care of you (and your husband)!

Your ___ Team
 
Followup Instructions:
___